US06008401
Synthesis of 4,4'-((1S,2S)-cyclohexane-1,2-dioxy)bisbenzonitrile
Sodium hydride (7.1 g, 0.3 mol) was dispersed in 200 ml DMF and added with (1S,2S)-cyclohexane-1,2-diol (11.42 g, 98.3 mmol) while cooling with ice. The mixture after being cooled with ice for another one hour was reacted at room temperature for 2 hours and cooled again, followed by addition of p-fluorobenzonitrile (25 g, 206 mmol). After the reaction was continued overnight, the mixture was added carefully with 5 ml water to inactivate excess sodium hydroxide, followed by distillation of DMF in pressure. The residue was added with 200 ml water and then extracted with ethyl acetate, followed by washing with a saturated solution of sodium chloride thereby obtaining a coarse crystalline product. The crystalline product was then recrystallized from 200 ml isopropanol thereby obtaining the intended product (26.2 g, 82.3 mmol, 84%).

reactant | Sodium hydride | 0.3 mol, 7.1 g | [H-].[Na+]
reactant | (1S,2S)-cyclohexane-1,2-diol | 98.3 mmol, 11.42 g | [C@H]1([C@H](CCCC1)O)O | C6H12O2
reactant | p-fluorobenzonitrile | 206 mmol, 25 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | 4,4'-((1S,2S)-cyclohexane-1,2-dioxy)bisbenzonitrile | 82.3 mmol, 26.2 g, 84% | [C@H]1([C@H](CCCC1)OC1=CC=C(C#N)C=C1)OC1=CC=C(C#N)C=C1 | C20H18N2O2
